US07491714B2
Acetic acid (30 ul, 0.475 mmol) was added to a solution of (R)-5-(6-methoxy-quinolin-4-yl)-3-(3-methylamino-propyl)-oxazolidin-2-one (150 mg, 0.475 mmol) and 1H-indole-2-carbaldehyde [19005-93-7] (72 mg, 0.475 mmol) in methylene chloride stabilized over amylene (4.5 ml) and the mixture was stirred for 30 minutes. Sodium triacetoxyborohydride (230 mg, 1.01 mmol) was then added and stirring was maintained for 48 hours at room temperature. Then water (5 ml) was added, the organic phase was decanted, washed with water dried over magnesium sulfate and concentrated. The residue was chromatographed on silicagel eluting with methylene chloride-methanol (9-1) to give a first crop of pure (R)-3-{3-[(1H-indol-2-ylmethyl)-methyl-amino]-propyl}-5-(6-methoxy-quinolin-4-yl)-oxazolidin-2-one (18 mg) and a less pure fraction of 90 mg (estimated yield >50%).

reactant | Acetic acid | 0.475 mmol, 30 ul | C(C)(=O)O | C2H4O2
reactant | (R)-5-(6-methoxy-quinolin-4-yl)-3-(3-methylamino-propyl)-oxazolidin-2-one | 0.475 mmol, 150 mg | COC=1C=C2C(=CC=NC2=CC1)[C@@H]1CN(C(O1)=O)CCCNC | C17H21N3O3
reactant | 1H-indole-2-carbaldehyde | 0.475 mmol, 72 mg | N1C(=CC2=CC=CC=C12)C=O | C9H7NO
reactant | amylene | 4.5 ml | CC=C(C)C | C5H10
reactant | Sodium triacetoxyborohydride | 1.01 mmol, 230 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | water | 5 ml | O | H2O
product | (R)-3-{3-[(1H-indol-2-ylmethyl)-methyl-amino]-propyl}-5-(6-methoxy-quinolin-4-yl)-oxazolidin-2-one | 18 mg, yield >50% | N1C(=CC2=CC=CC=C12)CN(CCCN1C(O[C@@H](C1)C1=CC=NC2=CC=C(C=C12)OC)=O)C | C26H28N4O3
